US09169259B2
A mixture of 6-fluoropyridin-2-amine (0.5 g, 4.46 mmol) and 2-(methoxymethyl)pyrrolidine (0.617 g, 5.35 mmol) in water (0.2 mL) was heated to 205° C. for 0.5 h in a sealed tube in a microwave oven then concentrated in vacuo. The residue was purified by chromatography (silica gel, 10 g, 200˜300 mesh, ethyl acetate:petroleum ether=1:15) to afford 6-(2-(methoxymethyl)pyrrolidin-1-yl)pyridin-2-amine (0.68 g, 74%) as a yellow oil. LC-MS: [M+1]+=208, tR=1.052 min.

reactant | 6-fluoropyridin-2-amine | 4.46 mmol, 0.5 g | FC1=CC=CC(=N1)N | C5H5FN2
reactant | 2-(methoxymethyl)pyrrolidine | 5.35 mmol, 0.617 g | COCC1NCCC1 | C6H13NO
solvent | water | 0.2 mL | O | H2O
product | 6-(2-(methoxymethyl)pyrrolidin-1-yl)pyridin-2-amine | 0.68 g, 74% | COCC1N(CCC1)C1=CC=CC(=N1)N | C11H17N3O
